US07994202B2
2-(6-Ethoxy-3-phenyl-1H-pyrazolo[3,4-b]pyridin-1-yl)thiazole-4-carboxylic acid
To an ethanol (2 mL, manufactured by Wako Pure Chemical Industries, Ltd.) solution of ethyl 2-(6-chloro-3-phenyl-1H-pyrazolo[3,4-b]pyridin-1-yl)thiazole-4-carboxylate (33 mg), which had been synthesized from the compound of Reference Example 33 according to the method of Example 3, 5 M sodium hydroxide (500 μL, manufactured by Kanto Chemical Co., Inc.) was added, and the mixture was stirred for one hour at room temperature. 5 M hydrochloric acid (500 μL, manufactured by Kanto Chemical Co., Inc.) was added to neutralize the mixture, and then the mixture was extracted with chloroform (3×3 mL), washed with brine (3 mL), and dried (MgSO4). The solvent was then evaporated, to give 17.6 mg of the title compound. LC-MS: HPLC retention time 1.38 minutes, m/z (M+H) 367, condition C-1.

reactant | ethyl 2-(6-chloro-3-phenyl-1H-pyrazolo[3,4-b]pyridin-1-yl)thiazole-4-carboxylate | 33 mg | ClC1=CC=C2C(=N1)N(N=C2C2=CC=CC=C2)C=2SC=C(N2)C(=O)OCC | C18H13ClN4O2S
reactant | sodium hydroxide | 5 M, 500 μL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M, 500 μL | Cl | ClH
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(6-Ethoxy-3-phenyl-1H-pyrazolo[3,4-b]pyridin-1-yl)thiazole-4-carboxylic acid | 17.6 mg | C(C)OC1=CC=C2C(=N1)N(N=C2C2=CC=CC=C2)C=2SC=C(N2)C(=O)O | C18H14N4O3S
